US07307073B2
A solution of morpholine-3-carboxylic acid (4.035 g; 30.8 mmol) in ethanol (250 ml) was saturated with gaseous HCl, then stirred for a week. The solvent was evaporated and the residue taken up in water and made basic (pH˜10) with sodium hydrogen carbonate and sodium carbonate. The mixture was then extracted with dichloromethane (7×), the combined extracts dried (Na2SO4) and the solvent evaporated to give ethyl morpholine-3-carboxylate (746 mg). EIMS: m/z=160.4 [M+H]+. This ester derivative and lithium aluminium hydride (1 M in THF, 9.4 ml, 9.4 mmol) were carefully combined under a nitrogen atmosphere and following addition were heated to reflux. After 5 h the reaction was cooled to room temperature and carefully quenched using dropwise water addition with ice cooling, then filtered and washed with dichloromethane. The solvent was evaporated to give 3-(hydroxymethyl)morpholine (409 mg). EIMS: m/z=118.2 (M+H)+.

reactant | morpholine-3-carboxylic acid | 30.8 mmol, 4.035 g | N1C(COCC1)C(=O)O | C5H9NO3
reactant | HCl | Cl | ClH
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl morpholine-3-carboxylate | 746 mg | N1C(COCC1)C(=O)OCC | C7H13NO3
